US05086051
N-[3-(4-Methyl-1-piperazinyl)propoxy]phthalimide may be obtained in the following manner: a solution of 1-(3-hydroxypropyl)-4-methylpiperazine (8.4 g), N-hydroxyphthalimide (8.2 g) and triphenylphosphine (13.1 g) in tetrahydrofuran (120 cc) is cooled to a temperature in the region of 0° C. and ethyl azodicarboxylate (10.1 g) is added in the course of 30 minutes. The solution obtained is stirred at a temperature in the region of 20° C. for 18 hours and is then concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 60° C. The crude oil obtained is chromatographed on a column 5 cm in diameter containing silica (0.063-0.2 mm) (400 g). The column is eluted with mixtures of ethyl acetate and methanol, collecting 500-cc fractions. The first 5 fractions originating from elution with pure ethyl acetate and the next 5 fractions originating from elution with a mixture of ethyl acetate and methanol (70:30 by volume) are discarded. The next fraction originating from elution with a mixture of ethyl acetate and methanol (70:30 by volume), the next 5 fractions originating from elution with a mixture of ethyl acetate and methanol (50:50 by volume) and the next 2 fractions originating from elution with pure methanol are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 60° C. N-[3-(4-Methyl-1-piperazinyl)propoxy]phthalimide (11.4 g) is thereby obtained in the form of a red oil (Rf=0.2; thin-layer chromatography on silica, eluent: ethyl acetate/methanol, 50:50 by volume).

reactant | 1-(3-hydroxypropyl)-4-methylpiperazine | 8.4 g | OCCCN1CCN(CC1)C | C8H18N2O
reactant | N-hydroxyphthalimide | 8.2 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | 10.1 g | N(=NC(=O)[O-])C(=O)OCC
solvent | tetrahydrofuran | 120 cc | O1CCCC1 | C4H8O
product | N-[3-(4-Methyl-1-piperazinyl)propoxy]phthalimide | 11.4 g | CN1CCN(CC1)CCCON1C(C=2C(C1=O)=CC=CC2)=O | C16H21N3O3
